US05798354
(a) Synthesis of 2,4-dihydroxy-5-(1-adamantyl)benzaldehyde
5 g (36.2 mmol) of 2,4-dihydroxybenzaldehyde, 5.8 g (38.1 mmol) of 1-adamantanol of 200 ml of dichloromethane were introduced into a round-bottomed flask. 2 ml of concentrated sulfuric acid were added and the mixture was stirred at room temperature for eight hours. The reaction mixture was evaporated to dryness, the residue was taken up in water, neutralized with sodium bicarbonate and extracted with ethyl ether and the extract was dried over magnesium sulfate and evaporated.

reactant | 2,4-dihydroxybenzaldehyde | 36.2 mmol, 5 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | 1-adamantanol | 38.1 mmol, 5.8 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2,4-dihydroxy-5-(1-adamantyl)benzaldehyde | OC1=C(C=O)C=C(C(=C1)O)C12CC3CC(CC(C1)C3)C2 | C17H20O3
